US07273877B2
4-(2-Fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid and CDI were dissolved in anhydrous THF/DMF (5:1) and treated with 2-amino-2-[hydroxymethyl]-1,3-propandiol as for example 34. After stirring at RT for 60 h, a precipitate had formed. The solid was isolated by filtration and further purified by flash chromatography on silica gel (5% MeOH/CH2Cl2—10% MeOH/CH2Cl2 gradient elution) to give 2-amino-3-hydroxy-2-(hydroxymethyl)propyl 4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate (7%) as a white solid; m.p. (EtOAc/Hexane) 117-122° C. (glue-liquid). 1H NMR [400 MHz, (CD3)2CO] δ 9.44 (br s, 1H), 8.61 (s, 1H), 7.67 (dd, J=9.9, 1.8 Hz, 1H), 7.66-7.62 (m, 1H), 7.35 (dt, J=8.4, 2.4 Hz, 1H), 5.62 (dd, J=6.3, 1.2 Hz, 1H), 4.26 (s, 2H), 3.56 (d, J=1.8 Hz, 4H), 3.49 (s, 3H). HRMS (FAB+) calcd for C17H20FIN3O5 492.0432 (M+), found 492.0450. HPLC 88.9% (254 nm).

reactant | 4-(2-Fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)O)C=CC(=C1)I | C13H10FIN2O3
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-amino-2-[hydroxymethyl]-1,3-propandiol | NC(CO)(CO)CO | C4H11NO3
solvent | THF DMF | C1CCOC1.CN(C)C=O
product | 2-amino-3-hydroxy-2-(hydroxymethyl)propyl 4-(2-fluoro-4-iodoanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylate | 7% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)OCC(CO)(CO)N)C=CC(=C1)I | C17H19FIN3O5
